US07737166B2
Methyl 4-amino-2-tert-butyl-5-phenyl-1-benzofuran-7-carboxylate (I-254)
A methanol (60 ml) solution of methyl 4-acetylamino-2-tert-butyl-5-phenyl-1-benzofuran-7-carboxylate (I-253) (2.28 g, 6.24 mmol) and 4 N hydrogen carbonate/1,4-dioxane solution (15.6 ml, 62.4 mmol) were stirred overnight at room temperature, then heated up to 50° C. and stirred for 5 hours. The reaction liquid was put into saturated sodium bicarbonate water (300 ml), followed by extraction with ethyl acetate (200 ml). The organic layer was dried over anhydrous sodium sulfate, concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1→1:1) to obtain the entitled compound (972 mg, 48%) as a yellow white solid. Starting material recovery, 1.10 g (48%).

reactant | methyl 4-acetylamino-2-tert-butyl-5-phenyl-1-benzofuran-7-carboxylate | 6.24 mmol, 2.28 g | C(C)(=O)NC1=C(C=C(C2=C1C=C(O2)C(C)(C)C)C(=O)OC)C2=CC=CC=C2 | C22H23NO4
reactant | hydrogen carbonate 1,4-dioxane | 62.4 mmol, 4 N, 15.6 ml | C(O)([O-])=O.O1CCOCC1
reactant | sodium bicarbonate water | 300 ml | O.C([O-])(O)=O.[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | Methyl 4-amino-2-tert-butyl-5-phenyl-1-benzofuran-7-carboxylate | 972 mg, 48% | NC1=C(C=C(C2=C1C=C(O2)C(C)(C)C)C(=O)OC)C2=CC=CC=C2 | C20H21NO3
